US09290511B2
Sodium triacetoxyborohydride (1.54 g, 7.28 mmol) was added to a stirred solution of 1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)piperidine-4-carbaldehyde (1.3 g, 3.64 mmol), N,N′-dimethyl-3-aminopyrrolidine (519 ul, 4.00 mmol) and acetic acid (240 ul, 4.00 mmol) in dry dichloromethane (20 ml) at room temperature. The solution was stirred for ˜2 h, after which time the reaction had reached completion. Water (20 ml) was added and the organic layer separated, the aqueous phase was extracted with dichloromethane (×3) and the combined organics washed with brine, then dried (MgSO4) and evaporated. The crude residue was purified by flash column chromatography (0 to 5% 7.0M NH3/MeOH in dichloromethane). N—[[1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]-N,1-dimethyl-pyrrolidin-3-amine was isolated as a pale yellow oil (1.25 g, 76%). LCMS: (M+H)+ 456.2, RT=2.99.

reactant | Sodium triacetoxyborohydride | 7.28 mmol, 1.54 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)piperidine-4-carbaldehyde | 3.64 mmol, 1.3 g | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)C=O | C18H16ClN3OS
reactant | N,N′-dimethyl-3-aminopyrrolidine | 4.00 mmol, 519 ul | CNC1CCN(C1)C | C6H14N2
reactant | acetic acid | 4.00 mmol, 240 ul | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Water | 20 ml | O | H2O
product | N—[[1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]-N,1-dimethyl-pyrrolidin-3-amine | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)CN(C2CN(CC2)C)C | C24H30ClN5S
